US07799805B2
(4-Chloro-3-formyl-benzyl)-(2-fluoro-ethyl)-carbamic acid tert-butyl ester
MnO2 (1.22 g, 12.6 mmol) was added to a sol. of (4-chloro-3-hydroxymethyl-benzyl)-(2-fluoro-ethyl)-carbamic acid tert-butyl ester (801 mg, 2.52 mmol) in CH3CN (50 mL). The mixture was stirred at rt for 4.5 h, and MnO2 (1.22 g, 12.6 mmol) was added again. The mixture was stirred for 1 h, and was filtered over Celite. The precipitate was washed with CH3CN and CH2Cl2. The filtrate was evaporated under reduced pressure. Drying the residue under high vacuum yielded the crude title compound (800 mg, quantitative yield) that was used further without purification. LC-MS: tR=1.01 min.

reactant | (4-chloro-3-hydroxymethyl-benzyl)-(2-fluoro-ethyl)-carbamic acid tert-butyl ester | 2.52 mmol, 801 mg | C(C)(C)(C)OC(N(CCF)CC1=CC(=C(C=C1)Cl)CO)=O | C15H21ClFNO3
solvent | CH3CN | 50 mL | CC#N | C2H3N
catalyst | MnO2 | 12.6 mmol, 1.22 g | O=[Mn]=O
catalyst | MnO2 | 12.6 mmol, 1.22 g | O=[Mn]=O
product | (4-Chloro-3-formyl-benzyl)-(2-fluoro-ethyl)-carbamic acid tert-butyl ester | 800 mg, quantitative yield | C(C)(C)(C)OC(N(CCF)CC1=CC(=C(C=C1)Cl)C=O)=O | C15H19ClFNO3
